US08039466B2
6.vii. ((S)-1-benzyl-4-methylene-piperidin-2-yl)-methanol
A solution of intermediate 6.vi (2.93 g) in DMF (35 ml) was treated with K2CO3 (3.70 g) and BnBr (2.15 ml). The reaction mixture was stirred at rt for 5 h and concentrated in vacuo. The residue obtained after work up (EA) was purified by chromatography (Hex/EA 1:1) to give 3.56 g (92% yield) of a brown oil.

reactant | K2CO3 | 3.70 g | C(=O)([O-])[O-].[K+].[K+]
reactant | BnBr | 2.15 ml | C1=CC=C(C=C1)CBr | C7H7Br
reactant | DMF | 35 ml | CN(C)C=O | C3H7NO
product | ((S)-1-benzyl-4-methylene-piperidin-2-yl)-methanol | 3.56 g, 92% yield | C(C1=CC=CC=C1)N1[C@@H](CC(CC1)=C)CO | C14H19NO
